US07456165B2
6-(aminocarbonyl)-13-cyclohexyl-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid, methyl ester.
To a solution of 7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxylic acid, 13-cyclohexyl-, 10-methyl ester (1.10 g, 2.65 mmol) in DMF (7.0 mL) and DIPEA (1.85 mL, 10.6 mmol) was added TBTU (1.28 g, 3.97 mmol). The resulting solution was stirred at 22° C. for 15 min. Ammonia (0.5M in dioxane, 21.2 mL, 10.6 mmol) was added and this solution was stirred at 22° C. for 18 hr. 1M HCl (50 mL) was added and the aqueous layer was extracted with CHCl3 (2×50 mL). The organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (4:1 EtOAc:hexanes) of the concentrate afforded the title compound (900 mg, 82%) as a yellow oil. MS m/z 415 (MH+), 1H NMR (300 MHz, CDCl3) δ ppm 1.17-1.69 (m, 5H), 1.79 (m, 2H), 1.87-2.16 (m, 3H), 2.86 (m, 1 H), 3.94 (s, 3H), 4.14 (broad m, 1 H), 5.72 (broad m, 1 H), 7.38 (s, 1 H), 7.46 (m, 2 H), 7.53 (dd, J=7.6, 8.4 Hz, 1 H), 7.61 (d, J=7.6 Hz, 1 H), 7.74 (d, J=8.4 Hz, 1 H), 7.87 (d, J=8.4 Hz, 1 H), 8.29 (s, 1 H).

reactant | 7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxylic acid | C1=CC=CC=2C=C(CN3C(C21)=CC=2C=CC(=CC23)C(=O)O)C(=O)O | C19H13NO4
reactant | DIPEA | 10.6 mmol, 1.85 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 3.97 mmol, 1.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Ammonia | 10.6 mmol, 0.5M, 21.2 mL | N | H3N
reactant | HCl | 1M, 50 mL | Cl | ClH
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
product | 6-(aminocarbonyl)-13-cyclohexyl-7H-indolo[2,1-a][2]benzazepine-10-carboxylic acid, methyl ester | 900 mg, 82% | NC(=O)C=1CN2C(C3=C(C1)C=CC=C3)=C(C=3C=CC(=CC32)C(=O)OC)C3CCCCC3 | C26H26N2O3
